US07112599B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic Acid (5-hydroxymethyl-4-trifluoromethyl-oxazol-2-yl)-amide
A mixture of 2-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-4-trifluoromethyl-oxazole-5-carboxylic acid ethyl ester (150 mg, 0.31 mmol) and sodium borohydride (150 mg, 3.947 mmol) in 3 ml methanol was stirred at room temperature for 10 min. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was separated, dried and concentrated and the residue was purified by preparative HPLC to give the title compound as a white solid. APCl M+1=436.1.

reactant | 2-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-4-trifluoromethyl-oxazole-5-carboxylic acid ethyl ester | 0.31 mmol, 150 mg | C(C)OC(=O)C1=C(N=C(O1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)C(F)(F)F | C20H20F5N3O5
reactant | sodium borohydride | 3.947 mmol, 150 mg | [BH4-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic Acid (5-hydroxymethyl-4-trifluoromethyl-oxazol-2-yl)-amide | OCC1=C(N=C(O1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)C(F)(F)F | C18H18F5N3O4
